US07049444B2
6-(2-Aminophenyl)-3-hexyl-6-methylazabicyclo[3.1.0]hexane-2,4-dione
To a solution of 3-hexyl-6-methyl-6-(2-nitrophenyl)azabicyclo[3.1.0]hexane-2,4-dione (Preparation 138, 880 mg, 2.66 mmol) in tetrahydrofuran (10 ml) was added 5% palladium on charcoal (Johnsson Matthey type 87, 50 mg) and the reaction mixture was placed under an atmosphere of hydrogen (60 psi) at room temperature for 4 h. The catalyst was removed by filtration through Celite™ and the filtrate was concentrated in vacuo. The residue was flushed through a small plug of silica gel (<1 g) eluting with dichloromethane to afford only the exo isomer of the title compound as a pale yellow oil (310 mg, 39%).

reactant | 3-hexyl-6-methyl-6-(2-nitrophenyl)azabicyclo[3.1.0]hexane-2,4-dione | 2.66 mmol, 880 mg | C(CCCCC)C1C(N2C(C2C1=O)(C1=C(C=CC=C1)[N+](=O)[O-])C)=O | C18H22N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 6-(2-Aminophenyl)-3-hexyl-6-methylazabicyclo[3.1.0]hexane-2,4-dione | 310 mg, 39% | NC1=C(C=CC=C1)C1(C2C(C(C(N12)=O)CCCCCC)=O)C | C18H24N2O2
